US08193239B2
(i) 5-Bromo-3-(3-methoxypropyl)benzo[d]oxazol-2(3H)-one
A mixture of 5-bromobenzo[d]oxazol-2(3H)-one (1.1 g), 3-methoxypropyl methanesulfonate (1.297 g) and potassium carbonate (2.131 g) in acetonitrile (25 mL) was heated at 70° C. for 16 h. Water was added and the mixture was extracted with ethyl acetate (3 times). The organic layers were dried (MgSO4), evaporated and purified by flash chromatography (silica, isohexane-acetone (5:1) as eluent) to give the sub-titled compound (1.50 g) as an oil.

reactant | 5-bromobenzo[d]oxazol-2(3H)-one | 1.1 g | BrC=1C=CC2=C(NC(O2)=O)C1 | C7H4BrNO2
reactant | 3-methoxypropyl methanesulfonate | 1.297 g | CS(=O)(=O)OCCCOC | C5H12O4S
reactant | potassium carbonate | 2.131 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
product | 5-Bromo-3-(3-methoxypropyl)benzo[d]oxazol-2(3H)-one | 1.50 g | BrC=1C=CC2=C(N(C(O2)=O)CCCOC)C1 | C11H12BrNO3
